.subckt VCR P+ P- REF+ REF-
B1 P+ P- I=V(P+,P-) / V(REF+,REF-)
.ends

.subckt VCL P+ P- REF+ REF-
B1 P+ P- V=ddt( I(B1)) * V(REF+,REF-)
.ends

.subckt VCC P+ P- REF+ REF-
B1 P+ P- I=ddt( V(P+,P-)) * V(REF+,REF-)
.ends
