.subckt VCR P+ P- REF+ REF-
B1 P+ P- I=V(P+,P-) / V(REF+,REF-)
.ends

.subckt VCL P+ P- REF+ REF-
B1 P+ P- V=ddt( I(B1)) * V(REF+,REF-)
.ends

.subckt VCC P+ P- REF+ REF-
B1 P+ P- I=ddt( V(P+,P-)) * V(REF+,REF-)
.ends

.subckt VCR_Ratio P+ P- REF+ REF- Params: R0=1u R1=1G
B1 P+ P- I=V(P+,P-) / V(Rvalue)
B2 Rvalue 0 V=({R1}-{R0})*V(REF+,REF-)+{R0}
.ends

.subckt VCL_Ratio P+ P- REF+ REF- Params:  L0=1u L1=100u
B1 P+ P- V=ddt( I(B1)) * V(Lvalue)
B2 Lvalue 0 V=({L1}-{L0})*V(REF+,REF-)+{L0}
.ends

.subckt VCC_Ratio P+ P- REF+ REF- Params:  C0=1u C1=100u
B1 P+ P- I=ddt( V(P+,P-)) * V(Cvalue)
B2 Cvalue 0 V=({C1}-{C0})*V(REF+,REF-)+{C0}
.ends